US06734200B1
3-(4-(1-(2(S),3-Dihydroxypropanoyl)-1,2,5,6tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(S)-(3-methylisoxazol-5-ylaminomethyl)oxazolidin-2-one
3-(4-(1-(2,2-Dimethyl-1,3-dioxolan-4(S)-ylcarbonyl)-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(R)-(N-(t-butoxycarbonyl)-3-methylisoxazol-5-ylaminomethyl)oxazolidin-2-one (400 mg, 0.65 mM) was dissolved in dichloromethane (6 ml) and treated with trifluoroacetic acid (6 ml) at 0°. After stirring for 30 minutes at ambient temperature, water (1.2 ml) was added, and stirring continued for 1 hour. Solvent was removed, the residue dissolved in methanol (20 ml), and treated with aqueous ammonia to bring the pH to 7-8; solvent was removed, and the residue chromatographed on a 10 g silica Mega Bond Elut® column, eluting with a gradient increasing in polarity from 0 to 5% methanol in dichloromethane. Relevant fractions were combined and evaporated to give the desired product (181 mg ). NMR (DMSO-d6) δ: 2.02 (s, 3H); 2.29 (m, 1H); 2.35 (m, 1H); 3.41 (t, 2H); 3.47 (m, 1H); 3.54 (m, 1H); 3.71 (m, 1H); 3.75 (dd, 1H); 4.04 (dd, 1H); 4.08 (m, 1H); 4.13 (t, 1H); 4.24 (m, 1H); 4.36 (t, 1H); 4.66 (t, 1H); 4.82 (m, 1H); 4.95 (t, 1H); 4.99 (s, 1H); 5.85 (s, 1H); 7.30 (d, 2H); 7.36 (t, 1H). MS (ESP): 479 (MH+) for C22H24F2N4O6

reactant | 3-(4-(1-(2,2-Dimethyl-1,3-dioxolan-4(S)-ylcarbonyl)-1,2,5,6-tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(R)-(N-(t-butoxycarbonyl)-3-methylisoxazol-5-ylaminomethyl)oxazolidin-2-one | 0.65 mM, 400 mg | CC1(OC[C@H](O1)C(=O)N1CC=C(CC1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)CN(C(=O)OC(C)(C)C)C1=CC(=NO1)C)=O)F)C | C30H36F2N4O8
reactant | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 1.2 ml | O | H2O
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 3-(4-(1-(2(S),3-Dihydroxypropanoyl)-1,2,5,6tetrahydropyrid-4-yl)-3,5-difluorophenyl)-5(S)-(3-methylisoxazol-5-ylaminomethyl)oxazolidin-2-one | 181 mg | O[C@H](C(=O)N1CC=C(CC1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)CNC1=CC(=NO1)C)=O)F)CO | C22H24F2N4O6
